US05021420
A solution of 2-(3-[4-(4-fluorophenyl)-1-piperazinyl]-2-hydroxypropyl}naphtho[1,8-cd]isothiazole 1,1-dioxide (4.41 g) in dimethylformamide (50 cc) is poured over 30 minutes into a mixture of sodium hydride (0.53 g) in a 50% dispersion in vaseline oil, and dimethylformamide (10 cc), under a current of argon, maintaining the temperature between 20 and 30° C. The reaction medium is stirred for 1 hour at a temperature of about 20° C. and then methyl iodide (0.7 cc) is added over 10 minutes. Stirring is maintained for 15 hours at a temperature of about 20° C. The mixture is redissolved in distilled water (200 cc) and the organic phase is extracted with dichloromethane (4×100 cc), dried over anhydrous magnesium sulphate, filtered and concentrated to dryness at 40° C. under reduced pressure (20 mm Hg; 2.7 kPa). The residue is purified by flash-chromatography on a silica column, under a current of argon at medium pressure (0.5-1.5 bar) with ethyl acetate as eluant, and recrystallized from boiling acetonitrile (10 cc). 2-(3-[4-(4-Fluoro phenyl)-1-p-iperazinyl]-2-methoxypropyl}naphtho[1,8cd]isothiazole 1,1-dioxide (2.1 g) is obtained, m.p. 128° C.

reactant | 2-(3-[4-(4-fluorophenyl)-1-piperazinyl]-2-hydroxypropyl}naphtho[1,8-cd]isothiazole 1,1-dioxide | 4.41 g | FC1=CC=C(C=C1)N1CCN(CC1)CC(CN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O)O | C23H24FN3O3S
reactant | sodium hydride | 0.53 g | [H-].[Na+]
reactant | methyl iodide | 0.7 cc | CI | CH3I
solvent | dimethylformamide | 50 cc | CN(C=O)C | C3H7NO
solvent | water | 200 cc | O | H2O
solvent | dimethylformamide | 10 cc | CN(C=O)C | C3H7NO
product | 2-(3-[4-(4-Fluoro phenyl)-1-p-iperazinyl]-2-methoxypropyl}naphtho[1,8cd]isothiazole 1,1-dioxide | 2.1 g | FC1=CC=C(C=C1)N1CCN(CC1)CC(CN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O)OC | C24H26FN3O3S
